US04703048
In 100 ml of chloroform was suspended 25 g (120 millimoles) of 2,4-dimethoxycinnamic acid, and at room temperature, 44 ml (about 600 millimoles) of thionyl chloride was added dropwise. The mixture was stirred at room temperature for 2 hours, and the excess of thionyl chloride and chloroform were distilled off under reduced pressure. The residue was diluted with 200 ml of chloroform, and added dropwise at room temperature to 300 ml of a chloroform solution of 34.6 g (120 millimoles) of bis(4-fluorophenyl)methylpiperazine and 24.3 g (240 millimoles) of triethylamine. The mixture was stirred at room temperature for 2 hours, and then a 10% aqueous solution of sodium bicarbonate was added. The mixture was shaken, and the organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. To the resulting oily product was added 200 ml of an ethanol solution of 14 g of fumaric acid. The crystals that precipitated were collected by filtratiion. Recrystallization from chloroform/methanol (1/1, v/v) gave 18.8 g (yield 29.2%) of 1-[bis(4-fluorophenyl)methyl]-4-(2,4-dimethoxycinnamoyl)piperazine hemifumarate as colorless crystals.

reactant | 2,4-dimethoxycinnamic acid | 120 millimoles, 25 g | COC1=C(C=CC(=O)O)C=CC(=C1)OC | C11H12O4
reactant | thionyl chloride | about 600 millimoles, 44 ml | S(=O)(Cl)Cl | Cl2OS
reactant | bis(4-fluorophenyl)methylpiperazine | 120 millimoles, 34.6 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCNCC1 | C17H18F2N2
reactant | triethylamine | 240 millimoles, 24.3 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[bis(4-fluorophenyl)methyl]-4-(2,4-dimethoxycinnamoyl)piperazine hemifumarate | 18.8 g, yield 29.2% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)C(N1CCN(CC1)C(C=CC1=C(C=C(C=C1)OC)OC)=O)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCN(CC1)C(C=CC1=C(C=C(C=C1)OC)OC)=O | InChI=1S/2C28H28F2N2O3.C4H4O4/c2*1-34-25-13-7-20(26(19-25)35-2)8-14-27(33)31-15-17-32(18-16-31)28(21-3-9-23(29)10-4-21)22-5-11-24(30)12-6-22;5-3(6)1-2-4(7)8/h2*3-14,19,28H,15-18H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;;2-1+
